US05962002
To a stirred solution of diisopropylamine (3.95 g, 39.0 mmol) in dry THF (50 ml) at -78° C. under an atmosphere of nitrogen was added n- butyllithium (2.5M, 11.7 ml, 29.3 mmol). The mixture was stirred for 10 minutes before methyl cyclopentanecarboxylate (Aldrich) (2.5 g, 19.5 mmol) was added dropwise. Stirring was continued for a further 10 minutes before methyl iodide (8.31 g, 58.5 mmol) was added dropwise. The reaction mixture was stirred at -78° C. for a further 1 hour before being allowed to warm up to room temperature and being stirred for a further 1 hour. The reaction mixture was poured onto an admixture of water and ether (1:1, 100 ml) and acidified with dilute hydrochloric acid (2M). The aqueous solution was separated and extracted further with ether (3×25 ml) and the combined ether layers were washed with water (2×50 ml), saturated sodium chloride solution (50 ml) and dried over MgSO4. Filtration and evaporation of solvent under reduced pressure yielded methyl 1-methylcyclopentanecarboxylate as a colourless oil (2.38 g, b.p. 106° C. at 10 mmHg[Kugelrohr]).

reactant | diisopropylamine | 39.0 mmol, 3.95 g | C(C)(C)NC(C)C | C6H15N
reactant | n- butyllithium | 29.3 mmol, 2.5M, 11.7 ml | C(CCC)[Li]
reactant | methyl cyclopentanecarboxylate | 19.5 mmol, 2.5 g | C1(CCCC1)C(=O)OC | C7H12O2
reactant | methyl iodide | 58.5 mmol, 8.31 g | CI | CH3I
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | methyl 1-methylcyclopentanecarboxylate | CC1(CCCC1)C(=O)OC | C8H14O2
